US05717100
4-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]-1-BENZYL-PIPERIDINE
To a stirring solution of 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]piperidine (0.51 mmol, 0.20 g) in acetonitrile (4.0 mL) and methanol (2.0 mL) was added sodium bicarbonate (1.8 mmol, 0.15 g) and benzyl chloride (0.51 mmol, 64.0 mg). The reaction was heated to reflux overnight, cooled, diluted with water (50 mL) and extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over anhydrous sodium sulfate and the solvent evaporated under reduced pressure. The residue was chromatographed over silica, eluting with 2.5% to 10% MeOH:CH2Cl2. The product containing fractions were evaporated under reduce pressure and crystallized from diethyl ether to give 74 mg of the title compound as a white powder. mp=212°-215° C.

reactant | 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]piperidine | 0.51 mmol, 0.20 g | FC1=CC=C(C=C1)C1=C(N=C(N1)C1CCNCC1)C1=CC=NC=C1 | C19H19FN4
reactant | sodium bicarbonate | 1.8 mmol, 0.15 g | C([O-])(O)=O.[Na+]
reactant | benzyl chloride | 0.51 mmol, 64.0 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
solvent | methanol | 2.0 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 4-[5-(4-FLUOROPHENYL)-4-PYRIDIN-4-YL-1H-IMIDAZOL-2-YL]-1-BENZYL-PIPERIDINE | 74 mg | FC1=CC=C(C=C1)C1=C(N=C(N1)C1CCN(CC1)CC1=CC=CC=C1)C1=CC=NC=C1 | C26H25FN4
